US07138401B2
Step 2: 2,3,5-Trimethyl-4-nitro-pyridine 1-oxide
A suspension of 2,3,5-collidine-N-oxide (3.77 g, 28 mmol) in conc. H2SO4 (8 mL) was cooled to 0° C. and fuming HNO3 (5 mL, 100 mmol) was added dropwise. The resulting transparent solution was stirred at 100° C. for 24 h, cooled to r.t., poured onto ice, and the pH was adjusted to 10. Work-up (CHCl3), drying (MgSO4), and evaporation gave the title compound, (97% yield, 97% purity). Rf (MeOH/EtOAc 1:9): 0.7. HPLC Rt: 4.756 min. 1H-NMR (CDCl3): δ 8.08 (s, 1H), 2.50 (s, 3H), 2.27 (s, 3H), 2.23 (s, 3H). m/z (%) 183.1 (M+1, 100%).

reactant | 2,3,5-collidine-N-oxide | 28 mmol, 3.77 g | [N+]1(=C(C(=CC(=C1)C)C)C)[O-] | C8H11NO
reactant | HNO3 | 100 mmol, 5 mL | [N+](=O)(O)[O-] | HNO3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | H2SO4 | 8 mL | OS(=O)(=O)O | H2O4S
product | 2,3,5-Trimethyl-4-nitro-pyridine 1-oxide | 97% yield | CC1=[N+](C=C(C(=C1C)[N+](=O)[O-])C)[O-] | C8H10N2O3
